US08389511B2
6-Bromo-1-(4-methoxybutyl)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one
To 6-bromo-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (1.5 g) were added DMF (24 mL) and NaH (326 mg) under ice-cooling, and the mixture was stirred at room temperature 15 minutes. Then, to the mixture were added 4-chloromethyl butyl ether (1.54 g) and potassium iodide (208 mg), and the mixture was stirred at 100° C. for 7 hours. After the reaction was complete, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. This ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to give the title compound (1.87 g) as a colorless liquid.

reactant | 6-bromo-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 1.5 g | BrC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H10BrNO
reactant | DMF | 24 mL | CN(C)C=O | C3H7NO
reactant | NaH | 326 mg | [H-].[Na+]
reactant | potassium iodide | 208 mg | [I-].[K+]
solvent | water | O | H2O
product | 6-Bromo-1-(4-methoxybutyl)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 1.87 g | BrC1=CC=C2C(C(N(C2=C1)CCCCOC)=O)(C)C | C15H20BrNO2
